US06417186B1
9a. 1-(2,3-Dihydrobenzo[1,4]dioxin-6-yl)-2-(4-nitrophenoxy)ethanone
A mixture of 2-bromo-1-(2,3-dihydrobenzo[1,4]dioxin-6-yl)ethanone (1.03 g, 4.00 mmol), 4-nitrophenol (0.57 g, 4.00 mmol), and cesium carbonate (1.63 g, 5.00 mmol) in dry N,N-dimethylformamide (10 mL) was stirred at room temperature for 1 hour. The reaction mixture was diluted with cold water. The resultant solid was collected by filtration gave the title compound (1.19 g, 94%). The product was used in the next step without purification.

reactant | 2-bromo-1-(2,3-dihydrobenzo[1,4]dioxin-6-yl)ethanone | 4.00 mmol, 1.03 g | BrCC(=O)C1=CC2=C(OCCO2)C=C1 | C10H9BrO3
reactant | 4-nitrophenol | 4.00 mmol, 0.57 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | cesium carbonate | 5.00 mmol, 1.63 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(2,3-Dihydrobenzo[1,4]dioxin-6-yl)-2-(4-nitrophenoxy)ethanone | 1.19 g, 94% | O1CCOC2=C1C=CC(=C2)C(COC2=CC=C(C=C2)[N+](=O)[O-])=O | C16H13NO6
